*
* Diode Sim Model Produced by Altium Ltd
* Date:  21-Mar-2003
*
* Manufacturer: Philips
* Component Name: BZX84C68V
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BZX84C68V 10 30

*These components model forward-biased conditions
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

*These components model reversed-biased conditions
D4 30 60 DPARASITIC
RZ 50 60 0.51617
Vbrk 50 10 68

* Subcircuit models
*+  BV =  68.11
*+  IBV =  1.45E-01
.MODEL DIDEAL D
+(
+  IS =  2.6665E-18
+  N =  0.82284
+  TT =  2.6257E-06
+  CJO =  1.1121E-11
+  VJ =  0.60561
+  M =  0.34915
+)

.MODEL DHIGH D
+(
+  IS =  0.018539025
+  N =  0.82284
+  RS =  0.51617
+)

.MODEL DRECOMB D
+(
+  IS =  5.78129E-11
+  N =  2.122227538
+)

.MODEL DPARASITIC D
+(
+	N = 0.001
+	RS = 0.001
+	CJO = 0.001P
+)

.ENDS BZX84C68V